US06248739B1
N-(4-Chlorobenzyl)-6-iodo-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide
N-(4-Chlorobenzyl)-4-hydroxy-6-iodo-3-quinolinecarboxamide (12.07 g) from Preparation No. 4 and potassium carbonate (5.70 g) are disolved in DMF (90 mL). lodomethane (2.1 mL) is added and the mixture is stirred at room temperature for 1 h. The resulting suspension is poured into water (500 mL) and filtered. The crude solid is washed with water (50 mL) and diethyl ether (100 mL) and then is recrystallized from ethanol to afford 10.6 g (85%) of the title compound as a white solid.

reactant | N-(4-Chlorobenzyl)-4-hydroxy-6-iodo-3-quinolinecarboxamide | 12.07 g | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)I)C=C1 | C17H12ClIN2O2
reactant | potassium carbonate | 5.70 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 500 mL | O | H2O
solvent | DMF | 90 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-6-iodo-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 10.6 g, 85% | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)I)C)C=C1 | C18H14ClIN2O2
